US07741479B2
A stirred solution of 5-tert-butyl-3-nitrothiophene-2-carboxylic acid (0.214 g, 0.933 mmol) in 2 ml thionyl chloride was warmed at 45° C. for 1 h and then concentrated under vacuum. The residue was dissolved in 2 ml THF and added to a 3 ml THF solution of 1-(2-(dimethylamino)ethyl)-3,3-dimethylpiperazin-2-one (0.242 g, 1.21 mmol) and DIEA (0.362 g, 2.80 mmol). The resulting mixture was stirred at room temperature for 5 minutes, diluted with ethyl acetate, washed with 1N HCl, water, brine, dried and the solvent eliminated under vacuum to yield 0.300 g, (˜85% purity) of 4-(2-tert-butyl-4-nitrothiophene-5-carbonyl)-1-(2-(dimethylamino)ethyl)-3,3-dimethyl-piperazin-2-one that was used as-is for the next step.

reactant | 5-tert-butyl-3-nitrothiophene-2-carboxylic acid | 0.933 mmol, 0.214 g | C(C)(C)(C)C1=CC(=C(S1)C(=O)O)[N+](=O)[O-] | C9H11NO4S
reactant | THF | 3 ml | C1CCOC1 | C4H8O
reactant | 1-(2-(dimethylamino)ethyl)-3,3-dimethylpiperazin-2-one | 1.21 mmol, 0.242 g | CN(CCN1C(C(NCC1)(C)C)=O)C | C10H21N3O
reactant | DIEA | 2.80 mmol, 0.362 g | CCN(C(C)C)C(C)C | C8H19N
solvent | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-tert-butyl-4-nitrothiophene-5-carbonyl)-1-(2-(dimethylamino)ethyl)-3,3-dimethyl-piperazin-2-one | ~85% | C(C)(C)(C)C=1SC(=C(C1)[N+](=O)[O-])C(=O)N1C(C(N(CC1)CCN(C)C)=O)(C)C | C19H30N4O4S
